US09062028B2
Step A. 1-(5-(1-(3-Bromobenzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one
The title compound was prepared using a procedure analogous to methyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoate except that 4-bromo-1H-pyrazole was replaced with 1-(5-(1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one and methyl 3-(bromomethyl)benzoate was replaced with 1-bromo-3-(bromomethyl)benzene. LCMS, [M+H]+=560.2.

reactant | methyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzoate | BrC=1C=NN(C1)CC=1C=C(C(=O)OC)C=CC1 | C12H11BrN2O2
reactant | 4-bromo-1H-pyrazole | BrC=1C=NNC1 | C3H3BrN2
reactant | 1-(5-(1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | N1N=CC(=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C24H27N3O2
reactant | methyl 3-(bromomethyl)benzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | 1-bromo-3-(bromomethyl)benzene | BrC1=CC(=CC=C1)CBr | C7H6Br2
product | 1-(5-(1-(3-Bromobenzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | BrC=1C=C(CN2N=CC(=C2)C2=C3CCCN(C3=CC=C2)C(CCCOC2=C(C(=CC=C2)C)C)=O)C=CC1 | C31H32BrN3O2
